US08895733B2
Intermediate 283: 3-(2-Methoxyethoxy)-pyridine-2-carboxylic acid
3-Fluoropyridine-2-carboxylic acid (150 mg, 1.06 mol), 2-methoxyethanol (1.5 mL) and potassium tert-butoxide (356 mg, 3.18 mmol) were charged to a sealed tube under nitrogen then stirred at 100 C for 18 h. The mixture was then diluted with water (3 mL), 1M HCl was added to bring the solution to pH 5 and the mixture was extracted with DCM (2×5 mL). 1M HCl was added to the aqueous layer to bring the solution to pH 3 and the mixture was extracted with DCM (2×5 mL). The combined organic extractions were dried over sodium sulfate and evaporated under vacuum to afford the title compound as a brown gum (54 mg, 26%). Method C HPLC-MS: MH+ requires m/z=198. Found: m/z=198, Rt=0.29 min.

reactant | 3-Fluoropyridine-2-carboxylic acid | 1.06 mol, 150 mg | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
reactant | 2-methoxyethanol | 1.5 mL | COCCO | C3H8O2
reactant | potassium tert-butoxide | 3.18 mmol, 356 mg | CC(C)([O-])C.[K+]
solvent | water | 3 mL | O | H2O
solvent | HCl | 1M | Cl | ClH
product | 3-(2-Methoxyethoxy)-pyridine-2-carboxylic acid | 54 mg, 26% | COCCOC=1C(=NC=CC1)C(=O)O | C9H11NO4
